US04287341
2-[4-(2-Furoyl)piperazine-1-yl]-4-amino-7,8-dimethoxyquinazoline hydrochloride
A mixture of 2-chloro-4-amino-7,8-dimethoxyquinazoline (3.00 g., 12.5 mmoles) and 1-(2-furoyl)piperazine (2.71 g., 15.0 mmoles) was refluxed in 80 ml. isoamyl alcohol for two hours and then cooled in an ice-bath. The resulting white product was collected by filtration and recrystallized from methanol/ether to yield 4.53 g. (79%) of pure final product, M.P. 251° C. The water solubility was found to be 20 mg./ml.

reactant | 2-chloro-4-amino-7,8-dimethoxyquinazoline | 12.5 mmoles, 3.00 g | ClC1=NC2=C(C(=CC=C2C(=N1)N)OC)OC | C10H10ClN3O2
reactant | 1-(2-furoyl)piperazine | 15.0 mmoles, 2.71 g | O1C(=CC=C1)C(=O)N1CCNCC1 | C9H12N2O2
solvent | isoamyl alcohol | C(CC(C)C)O | C5H12O
product | 2-[4-(2-Furoyl)piperazine-1-yl]-4-amino-7,8-dimethoxyquinazoline hydrochloride | 79% | Cl.O1C(=CC=C1)C(=O)N1CCN(CC1)C1=NC2=C(C(=CC=C2C(=N1)N)OC)OC | InChI=1S/C19H21N5O4.ClH/c1-26-13-6-5-12-15(16(13)27-2)21-19(22-17(12)20)24-9-7-23(8-10-24)18(25)14-4-3-11-28-14;/h3-6,11H,7-10H2,1-2H3,(H2,20,21,22);1H
